### PR TITLE
duality between `closure` and `interior`

### PR DESCRIPTION
**Pull request by t6s**
##### Motivation for this change

This PR adds some lemmas for the closure and interior operators that
are a basic part of the duality between these.  This addition will serve
as an initial step towards the theory of regular open/closed sets.

Lemma `closureC` is modified since its original statement seemed not
conforming to the name.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/topology_theory/topology_structure.v [hunk 1]
```diff
@@ -820,6 +813,74 @@ Qed.
...
+Proof.
+apply: setC_inj; rewrite -closureC closureEbigcap setC_bigcup.
+rewrite -[RHS](bigcap_image _ setC idfun) /=.
+apply: eq_bigcapl; split=> X /=.
+  by rewrite -openC -setCS setCK; exists (~` X)=> //; rewrite setCK.
+by case=> Y + <-; rewrite closedC setCS.
+Qed.
+
+Lemma interior_closure_idem (A : set T) :
+  interior (closure (interior (closure A))) = interior (closure A).
```
Comment (affeldt-aist) [inline theories/topology_theory/topology_structure.v:857]: Quick thought: could the following definition be useful?
```coq
Definition idempotent_fun (U : Type) (f : U -> U) := f \o f =1 f.
```

Comment (t6s) [reply theories/topology_theory/topology_structure.v:857]: Nice. Which file should it be put in?

**Review by zstone1 — APPROVED** [review]
All looks good. I'm a bit surprised we didn't have some of this fundamental stuff before, so I'm glad to see you adding it.

File: theories/topology_theory/topology_structure.v (hunk 1 above)
Comment (zstone1) [reply theories/topology_theory/topology_structure.v:857]: (oh wow, mathcomp's existing `idempotent f` predicate means `f x x = x` and not `f (f x) = f x`. I am always surprised by that one.) mathcomp-extra is a suitable place for this, I think

File: theories/topology_theory/topology_structure.v [hunk 2]
```diff
@@ -804,14 +805,6 @@ rewrite eqEsubset; split=> [x ? B [cB AB]|]; first exact/cB/(closure_subset AB).
 exact: (smallest_sub (@closed_closure _ _) (@subset_closure _ _)).
 Qed.
 
-Lemma closureC E :
```
Comment (affeldt-aist) [inline theories/topology_theory/topology_structure.v:807]: Ideally, this should better be deprecated with a pragma instead of being removed (you'll find examples here and there in the code of such deprecations).

File: theories/topology_theory/topology_structure.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/topology_theory/topology_structure.v:857]: > I am always surprised by that one.

so maybe we could propose to rename it to `idempotent_op`?

**Comment by t6s** [comment]
> Don't hesitate to use `^°` when you can. @yoshihiro503 worked hard on making it clickable in the online documentation (https://math-comp.github.io/analysis/htmldoc_1_6_0/index.html) ^_^

The problem is, I cannot easily input that circle symbol.  (Do you know any SKK keystroke for that?)
But anyway, I'll do some copy-pasting later.

**Comment by t6s** [comment]
`idempotent_fun` is added.
I have also introduced definitions `regopen` and `regclosed` to state generalized versions of the idempotent lemmas.
I am afraid that these names are not particularly good, but `regular_open` seems too long.

File: theories/topology_theory/topology_structure.v (hunk 2 above)
Comment (t6s) [reply theories/topology_theory/topology_structure.v:807]: The original `closureC` is being replaced by a different lemma (with a completely different statement) of the same name.  Does that deprecation mechanism work also for this case?

Comment (affeldt-aist) [reply theories/topology_theory/topology_structure.v:807]: We can shorten the proof of `closureC` and keep it around for a while with, say:
```coq
#[deprecated(since="mathcomp-analysis 1.7.0", note="use this other lemma instead")]
```
so that developments using don't break right away.

File: theories/topology_theory/topology_structure.v [hunk 3]
```diff
@@ -829,15 +831,15 @@ exists U=> //; apply/(subset_trans UX)/disjoints_subset; rewrite setIC.
 by apply/eqP/negbNE/negP; rewrite set0P.
 Qed.
 
-Lemma closureC (A : set T) : closure (~` A) = ~` A^°.
```
Comment (affeldt-aist) [inline theories/topology_theory/topology_structure.v]: What about calling it `closure_setC` (somehow the long version of `closureC`) and keep a comment or an issue to rename it once the deprecation of `closureC` is eliminated (in a few releases)?

File: theories/topology_theory/topology_structure.v [hunk 4]
```diff
@@ -887,6 +889,12 @@ Proof. move=> ?; exact/closure_open_regclosed/open_interior. Qed.
 
 End closure_interior_lemmas.
 
+Lemma closureC_deprecated (T : topologicalType) (E : set T) :
+  ~` closure E = \bigcup_(x in [set U | open U /\ U `<=` ~` E]) x.
+Proof. by rewrite -interiorC interiorEbigcup. Qed.
+#[deprecated(since="mathcomp-analysis 1.6.1", note="use `interiorC` and `interiorEbigcup` instead")]
+Notation closureC := closureC_deprecated (only parsing).
```
Comment (affeldt-aist) [inline theories/topology_theory/topology_structure.v:896]: I heard that it is not necessary anymore to introduce a notation for deprecation pragmas to work with recent versions of Coq.

File: theories/topology_theory/topology_structure.v (hunk 3 above)
Comment (t6s) [reply theories/topology_theory/topology_structure.v]: That will indeed be better.

File: theories/topology_theory/topology_structure.v [hunk 5]
```diff
@@ -820,6 +817,91 @@ Qed.
...
+
+Lemma closure_interior_idem : @idempotent_fun (set T) (closure \o interior).
+Proof. move=> ?; exact/closure_open_regclosed/open_interior. Qed.
+
+End closure_interior_lemmas.
+
+Lemma closureC_deprecated (T : topologicalType) (E : set T) :
+  ~` closure E = \bigcup_(x in [set U | open U /\ U `<=` ~` E]) x.
+Proof. by rewrite -interiorC interiorEbigcup. Qed.
+#[deprecated(since="mathcomp-analysis 1.6.1", note="use `interiorC` and `interiorEbigcup` instead")]
```
Comment (affeldt-aist) [inline theories/topology_theory/topology_structure.v:902]:
```suggestion
#[deprecated(since="mathcomp-analysis 1.7.0", note="use `interiorC` and `interiorEbigcup` instead")]
```

**Review by affeldt-aist — APPROVED** [review]
